US07745451B2
C. 6-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (700 mg, 3.4 mmol) was dissolved in a mixture of dioxane/N,N-dimethylacetamide (4:1) (2 mL). To the mixture was added 2,3-dichloropyridine (1.5 g, 10.2 mmol) and N,N-diisopropylethylamine (0.87 mL, 5.1 mmol). The mixture was heated in a sealed tube at 150° C. in a microwave (Emrys Optimizer model, Personal Chemistry) for 16 h. The solvents were removed under vacuum and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give a brown residue. The residue was purified using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as an off-white powder (340 mg, 26%).

reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 3.4 mmol, 700 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CCNC2)(F)F | C14H13F3N4
reactant | 2,3-dichloropyridine | 10.2 mmol, 1.5 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | N,N-diisopropylethylamine | 5.1 mmol, 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane N,N-dimethylacetamide | 2 mL | O1CCOCC1.CN(C(C)=O)C
product | 6-(3-Chloropyridin-2-yl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 340 mg, 26% | ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)C(F)(F)F)CC1 | C19H15ClF3N5
